US04918215
6.76 g (0.02 mol) of 4,4'-dibromostilbene, 1.06 g (0.02 mol) of acrylonitrile, 4.08 g (0.022 mol) of tri-n-butylamine, 0.0898 g (0.4 mmol) of palladium acetate and 0.2098 g (0.8 mmol) of triphenylphosphine are added under argon to 10 ml of toluene. The reaction mixture is stirred at 100°-115° C. for 7 hours. Working up gives 1 g (16% of theory) of 4-bromostilbene-4'-acrylonitrile in the form of a pale yellow powder. Melting point 258° C.

reactant | 4,4'-dibromostilbene | 0.02 mol, 6.76 g | BrC1=CC=C(C=C1)C=CC1=CC=C(C=C1)Br | C14H10Br2
reactant | acrylonitrile | 0.02 mol, 1.06 g | C(C=C)#N | C3H3N
reactant | tri-n-butylamine | 0.022 mol, 4.08 g | C(CCC)N(CCCC)CCCC | C12H27N
reactant | triphenylphosphine | 0.8 mmol, 0.2098 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
catalyst | palladium acetate | 0.4 mmol, 0.0898 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 4-bromostilbene-4'-acrylonitrile | 1 g, 16% | BrC1=CC=C(C=C1)C=CC1=CC=C(C=C1)C=CC#N | C17H12BrN
